US08791132B2
1-(8-Hydroxymethyl-2-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-3-yl-propan-2-ol (700 mg, 1.99 mmol) was dissolved in 70 mL DCM and cooled to 0° C. Diethylaminosulfur trifluoride (800 mg, 4.9 mmol) in DCM (5 mL) was added dropwise at the same temperature and stirred for 45 min. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was quenched with saturated bicarbonate and extracted with DCM. The organic layer was washed with water and brine solution, dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 14 mg of [5-(2-fluoro-2-pyridin-3-yl-propyl)-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-8-yl]-methanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.6 (s, 1H), 8.57 (d, 1H), 7.6 (d, 1H), 7.35 (s, 1H), 7.2 (m, 1H), 7.125 (m, 2H), 4.72 (s, 2H), 4.3 (m, 2H), 3.6 (q, 2H), 2.8 (m, 1H), 2.7 (dd, 2H), 2.6 (m, 1H), 2.52 (s, 3H), 1.75 (d, 3H). Separation by chiral HPLC provides enantiomers II-213a-b.

reactant | 1-(8-Hydroxymethyl-2-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-3-yl-propan-2-ol | 1.99 mmol, 700 mg | OCC1=CC=2C3=C(N(C2C=C1)CC(C)(O)C=1C=NC=CC1)CCN(C3)C | C21H25N3O2
reactant | Diethylaminosulfur trifluoride | 4.9 mmol, 800 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [5-(2-fluoro-2-pyridin-3-yl-propyl)-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-8-yl]-methanol | 14 mg | FC(CN1C2=C(C=3C=C(C=CC13)CO)CN(CC2)C)(C)C=2C=NC=CC2 | C21H24FN3O
